US07579488B2
C. 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-7-methyl-benzofuran-2-carboxylic acid ethyl ester (PF1-A03671-100)
5-(1-Ethyl-1-hydroxy-propyl)-7-methyl-benzofuran-2-carboxylic acid ethyl ester (7.90 g, 27.2 mmol) and o-cresol (5.88 g, 54.4 mmol) and BF3-Et2O (3.86 g, 27.2 mmol) are reacted analogous to Example 1D to give the title compound (5.55 g, 54%).

reactant | 5-(1-Ethyl-1-hydroxy-propyl)-7-methyl-benzofuran-2-carboxylic acid ethyl ester | 27.2 mmol, 7.90 g | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2C)C(CC)(O)CC | C17H22O4
reactant | o-cresol | 54.4 mmol, 5.88 g | C1(=CC=CC=C1O)C | C7H8O
reactant | BF3 Et2O | 27.2 mmol, 3.86 g | B(F)(F)F.CCOCC
product | 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-7-methyl-benzofuran-2-carboxylic acid ethyl ester | 5.55 g, 54% | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2C)C(CC)(C2=CC(=C(C=C2)O)C)CC | C24H28O4
